US07846964B2
To a solution of (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone (275 mg, 1.25 mmol) in DCM (7 mL) and methanol (3.5 mL) is added phenyltrimethyl-ammoniumbromid-dibromid (570 mg, 1.5 mmol) and the reaction mixture is stirred at rt for 30 min. Another portion of phenyltrimethyl-ammoniumbromid-dibromid (600 mg, 1.6 mmol) is added and stirring is continued for 1 h before the mixture is diluted with sat. aq. NaHCO3 (5 mL) and water (25 mL) and extracted twice with DCM (2×20 mL). The organic extracts are dried over Na2SO4 and evaporated to give crude 2-bromo-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone (250 mg) as a brownish oil; LC-MS: tR=1.06 min, [M+3]+=300.99.

reactant | (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone | 1.25 mmol, 275 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(C)=O)C | C13H16OS
reactant | phenyltrimethyl-ammoniumbromid-dibromid | 1.5 mmol, 570 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | phenyltrimethyl-ammoniumbromid-dibromid | 1.6 mmol, 600 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 3.5 mL | CO | CH4O
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | water | 25 mL | O | H2O
product | 2-bromo-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone | 250 mg | BrCC(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C13H15BrOS
